US04937268
[4-Amino-3,5-dichloro-α-[[[6-[2-[[2-(2-pyridinyl)ethyl]thio]ethoxy]hexyl]amino]methyl]benzenemethanol
A solution of 4-amino-α-(aminomethyl)-3,5-dichlorobenzenemethanol (0.56 g,), 2-[2-[[2-[(6-bromohexyl)oxy]ethyl]thio]ethyl]pyridine (0.58 g,) and DEA (0.26 g,) in DMF (10 ml) was stirred under nitrogen for 2 h. The solvent was evaporated in vacuo and the residual oil partitioned between 8% sodium bicarbonate solution (100 ml) and dichloromethane (100 ml). The aqueous phase was re-extracted with dichloromethane (100 ml) and the combined organic phases dried and evaporated in vacuo to give an oil. Purification by FCC eluting with System G (98:2:1) gave an oil. Trituration with hexane afforded the title compound (451 mg,) as a solid m.p. 59.5°-62°. T.l.c. (System E 40:10:1) Rf 0.32.

reactant | 4-amino-α-(aminomethyl)-3,5-dichlorobenzenemethanol | 0.56 g | NC1=C(C=C(C=C1Cl)C(O)CN)Cl | C8H10Cl2N2O
reactant | 2-[2-[[2-[(6-bromohexyl)oxy]ethyl]thio]ethyl]pyridine | 0.58 g | BrCCCCCCOCCSCCC1=NC=CC=C1 | C15H24BrNOS
reactant | hexane | CCCCCC | C6H14
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-Amino-3,5-dichloro-α-[[[6-[2-[[2-(2-pyridinyl)ethyl]thio]ethoxy]hexyl]amino]methyl]benzenemethanol | 451 mg | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCSCCC1=NC=CC=C1)Cl | C23H33Cl2N3O2S
